US05726165
(SR)-4-{2-[3-(3,4-Dihydroxyphenoxy)-2-hydroxypropylamino]propyl}phenoxyacetic acid, hydrochloride
A solution of (SR)-4-{2-[2-hydroxy-3-(3,4-dihydroxyphenoxy)propylamino]propyl}phenoxyacetic acid, methyl ester, hydrochloride (78 mg, 0.17 mMol) in water (2 ml) containing hydrochloric acid (1M, 0.5 ml, 0.51 mMol) was heated at 100° C. under argon for 3 hours. After cooling to room temperature the solution was freeze dried giving the title compound as a colourless solid.

reactant | (SR)-4-{2-[2-hydroxy-3-(3,4-dihydroxyphenoxy)propylamino]propyl}phenoxyacetic acid, methyl ester, hydrochloride | 0.17 mMol, 78 mg | Cl.OC(CNC(CC1=CC=C(OCC(=O)OC)C=C1)C)COC1=CC(=C(C=C1)O)O
reactant | hydrochloric acid | 0.51 mMol, 1M, 0.5 ml | Cl | ClH
solvent | water | 2 ml | O | H2O
product | (SR)-4-{2-[3-(3,4-Dihydroxyphenoxy)-2-hydroxypropylamino]propyl}phenoxyacetic acid, hydrochloride | Cl.OC=1C=C(OCC(CNC(CC2=CC=C(OCC(=O)O)C=C2)C)O)C=CC1O | InChI=1S/C20H25NO7.ClH/c1-13(8-14-2-4-16(5-3-14)28-12-20(25)26)21-10-15(22)11-27-17-6-7-18(23)19(24)9-17;/h2-7,9,13,15,21-24H,8,10-12H2,1H3,(H,25,26);1H
